US07893056B2
To a solution of racemic tris(1,1-dimethylethyl)2-{2-chloro-6-[3-(dimethylamino)-2,2-dimethyl-1-pyrrolidinyl]-5-fluoro-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate (0.4618 g, 0.766 mmol) in MeOH (5 mL) was added 4 N HCl in dioxane (5 mL). The solution was stirred for 3 days, and then concentrated in vacuo to afford racemic 1-(2-chloro-5-fluoro-6-hydrazino-4-pyrimidinyl)-N,N,2,2-tetramethyl-3-pyrrolidinamine pentahydrochloride (0.3673 g, 99% yield) as an orange oil that crystallized under vacuum. LCMS: (M+H)+: 303.1.

reactant | racemic tris(1,1-dimethylethyl)2-{2-chloro-6-[3-(dimethylamino)-2,2-dimethyl-1-pyrrolidinyl]-5-fluoro-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate | 0.766 mmol, 0.4618 g | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)N1C(C(CC1)N(C)C)(C)C)Cl)C(=O)OC(C)(C)C | C27H44ClFN6O6
reactant | HCl | 4 N | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | racemic 1-(2-chloro-5-fluoro-6-hydrazino-4-pyrimidinyl)-N,N,2,2-tetramethyl-3-pyrrolidinamine pentahydrochloride | 0.3673 g, 99% yield | Cl.Cl.Cl.Cl.Cl.ClC1=NC(=C(C(=N1)N1C(C(CC1)N(C)C)(C)C)F)NN | InChI=1S/C12H20ClFN6.5ClH/c1-12(2)7(19(3)4)5-6-20(12)10-8(14)9(18-15)16-11(13)17-10;;;;;/h7H,5-6,15H2,1-4H3,(H,16,17,18);5*1H
